US04469868
p-Toluenesulfonic acid monohydrate (15.2 g, 0.08 mol) is added in portions with stirring to 6 g (0.08 mol) of 1,2-diaminopropane under nitrogen. To the resulting melt (ca 100° C.) is added in portions 12.6 g (0.076 mol) of 5-cyano-1,3-dimethyl-4-nitropyrazole (mp 93° C.); the mixture is stirred and heated to 120° C. and 25 ml of o-dichlorobenzene is added; stirring is continued at 120°-130° for 0.5 hours then at 160° C. for three hours. The cooled mixture is extracted with 75 ml of 3N HCl. The aqueous extract is made strongly basic with a large excess of concentrated NH4OH and the mixture is extracted thoroughly with methylene dichloride. Evaporation of the extract gives 14.3 g (84%) of 2-(1,3-dimethyl-4-nitropyrazol-5-yl)-4-methylimidazoline, mp 98°-101°.

reactant | p-Toluenesulfonic acid monohydrate | 0.08 mol, 15.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 1,2-diaminopropane | 0.08 mol, 6 g | NCC(C)N | C3H10N2
reactant | 5-cyano-1,3-dimethyl-4-nitropyrazole | 0.076 mol, 12.6 g | C(#N)C1=C(C(=NN1C)C)[N+](=O)[O-] | C6H6N4O2
solvent | o-dichlorobenzene | 25 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-(1,3-dimethyl-4-nitropyrazol-5-yl)-4-methylimidazoline | 14.3 g, 84% | CN1N=C(C(=C1C=1NCC(N1)C)[N+](=O)[O-])C | C9H13N5O2
